US04665179
5-amino-2-(2-aminoethyl)-aminophenyl benzyl sulphone
20.0 g of 2-(2-aminoethyl)-amino-5-nitrophenyl benzyl sulphone are suspended in 100 ml of ethanol and 100 ml of water. In an autoclave 1 g of Raney nickel is added, 40 bar of hydrogen are injected, and the temperature is raised to 60° C. until after a further injection of hydrogen there is no further consumption. After the reduction has ended the resultant solution is clarified hot from Raney nickel, the nickel residue is washed with 40 ml of hot water, and the resulting solution is reacted as per Example 16.

reactant | 2-(2-aminoethyl)-amino-5-nitrophenyl benzyl sulphone | 20.0 g | C(C1=CC=CC=C1)S(=O)(=O)C1=C(C(=CC(=C1)[N+](=O)[O-])N)CCN | C15H17N3O4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 5-amino-2-(2-aminoethyl)-aminophenyl benzyl sulphone | C(C1=CC=CC=C1)S(=O)(=O)C1=C(C(=CC(=C1)N)N)CCN | C15H19N3O2S
